US05571821
Benzyl bromide (25.65 g, 150 mmol) was added dropwise over 8 h to a suspension of magnesium (3.6 g, 150 mmol) in ether (75 ml) dissolved in ether (30 ml). The resulting mixture was cooled to -10° C. 3-thiophenecarboxaldehyde in ether (45 ml) over 30 min was then added and the resultant reaction mixture was stirred at room temperature for 6 h. This was cooled to 0° C. and the reaction mixture was decomposed by addition of 0.1N HCl. The ether layer was separated and the aqueous phase was extracted with ethyl acetate (2×50 ml). The combined organic layer was dried over MgSO4 and filtered. Removal of the solvent gave 1-(3-thienyl)phenethyl alcohol (16 g, 78% yield).

reactant | Benzyl bromide | 150 mmol, 25.65 g | C(C1=CC=CC=C1)Br | C7H7Br
reactant | magnesium | 150 mmol, 3.6 g | [Mg] | Mg
reactant | 3-thiophenecarboxaldehyde | S1C=C(C=C1)C=O | C5H4OS
reactant | HCl | 0.1N | Cl | ClH
reactant | ether | 75 ml | CCOCC | C4H10O
reactant | ether | 30 ml | CCOCC | C4H10O
reactant | ether | 45 ml | CCOCC | C4H10O
product | 1-(3-thienyl)phenethyl alcohol | 16 g, 78% yield | S1C=C(C=C1)C1(CCO)CC=CC=C1 | C12H14OS
